* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG819.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 5
V2 N002 0 0
V3 IN 0 PULSE(0 5 0 20n 20n 10u 20u)
R1 D 0 300
C1 D 0 35p
V4 +V 0 5
X§U1 IN N001 D N002 +V 0 ADG819
.tran 100u
.lib ADG819.sub
.backanno
.end
