* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG822.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PULSE(0 3 0 10n 10n 500n 1u 10)
V2 S 0 3
V3 Vdd 0 5
R1 D 0 51
X§U1 IN D S 0 Vdd ADG822
.tran 10u
.lib ADG822.sub
.backanno
.end
