* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG836.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 3
V2 N003 0 0
V3 N004 0 PULSE(0 3 0 20n 20n 10u 20u)
R1 N002 0 49.9
C1 N002 0 36p
V4 +V 0 3.3
X§U1 N004 N001 N002 N003 +V 0 ADG836
.tran 100u
* Note:\nCharge Injection not included\nOnly One channel included\nSwitch shown for a logic 0 input
.lib ADG836.sub
.backanno
.end
