* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG849.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 0
V2 N003 0 5
V3 N004 0 PULSE(0 5 25u 20n 20n 25u)
R1 N002 0 49.9
C1 N002 0 36p
V4 +V 0 5
X§U1 N004 N001 N002 N003 +V 0 ADG849
.tran 75u
* Note:\nCharge Injection not included\nSwitch shown for a logic 0 input
.lib ADG849.sub
.backanno
.end
