* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG888.asc
* Generated by LTspice 24.1.9 for Windows.
V1 SA 0 3
V2 SB 0 0
V3 IN 0 PULSE(0 5 5u 20n 20n 25u 50u)
R1 D 0 49.9
C1 D 0 36p
V4 +V 0 5
X§U2 IN SA D SB +V 0 ADG888
.tran 75u
.lib ADG888.sub
.backanno
.end
