* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG918.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 {Vdd}
V2 N001 0 PULSE({Vdd} 0 0 2n 2n 5u 10u)
V3 IN 0 SINE({Vdd/2} 1 10Meg)
X§U1 +V N001 0 IN OUT2 MP_01 MP_02 OUT1 ADG918
.tran 30u
.param Vdd=2.75
.lib ADG.lib
.backanno
.end
