* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5412BF.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V3 vSource 0 10
V4 vIN 0 pulse(0 5 0 20n 20n 10u 20u)
R1 vDrain 0 301
C1 vDrain 0 36p
C2 vFF 0 12p
X§U2 vIN vDrain vSource -V 0 +V vFF ADG5412BF
.tran 0.1m
* Note:\nInterrupt Flag recovery time with pull-up resistor not included\nQinj not included\nOnly one channel included\nSwitch shown for a logic 0 input
.lib ADG5412BF.sub
.backanno
.end
