* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5243F.asc
* Generated by LTspice 24.1.9 for Windows.
V1 Vdd 0 15
V2 Vss 0 -15
V3 INx 0 PULSE(0 3 0 20n 20n 50u 200u)
C1 SF 0 12p
V6 VS1B 0 PULSE(0 40 50u 10u 50u 15u)
V7 VS1A 0 0
R3 0 D1 1k
C2 D1 0 5.1p
V5 _EN 0 0
R2 0 D2 1k
C5 D2 0 5.1p
R4 0 D3 1k
C6 D3 0 5.1p
C7 FF 0 12p
V4 VS2B 0 5
V8 VS2A 0 -10
V9 VS3B 0 SINE(0 10 10K)
V10 VS3A 0 5
V11 NegFV 0 -10
V12 PosFV 0 10
X§U1 INx INx VS1A D1 VS1B VS2B D2 VS2A NegFV SF FF PosFV VS3A D3 VS3B Vss Vdd 0 _EN N001 ADG5243F
V13 N001 0 3
.tran 500u
* Switch Voltage Supplies
* Digital Input Voltage
* Simulation Commands
* --->Transient Analysis
* Switch Analog Inputs
* Note:\nInterrupt Flag recovery time with pull-up resistor not included\nCrosstalk between adjacent channel not included\nOn reistance curve modeled at ±15V supplies\nSwitch shown for a logic 0 input
.lib ADG5243F.sub
.backanno
.end
