* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5248F.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V4 N010 0 PULSE(3.3 0 0 1u 1u 5m 10m)
X§U1 N010 +V -V N001 N002 N003 N004 N005 N009 N008 N007 N006 +V 0 N013 N011 -V +V N012 N014 ADG5248F
R1 0 N005 10Meg
V5 N013 0 PULSE(3.3 0 0 1u 1u 20m 40m)
V6 N011 0 PULSE(3.3 0 0 1u 1u 10m 20m)
V3 N002 0 SINE(0 2 2K)
V7 N004 0 SINE(0 4 4K)
V8 N001 0 SINE(0 1 1K)
V9 N003 0 SINE(0 3 3K)
V10 N007 0 SINE(0 6 6K)
V11 N009 0 SINE(0 8 8K)
V12 N006 0 SINE(0 5 5K)
V13 N008 0 SINE(0 7 7K)
.tran 40m
.lib ADG.lib
.backanno
.end
