* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5249F.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V5 N012 0 PULSE(3.3 0 0 1u 1u 10m 20m)
V7 N002 0 SINE(0 2 2K)
V8 N005 0 SINE(0 4 4K)
V10 N001 0 SINE(0 1 1K)
V11 N004 0 SINE(0 3 3K)
R1 0 N003 10Meg
X§U1 N011 +V -V N001 N002 N004 N005 N003 N010 N009 N007 N006 +V 0 N008 N012 -V +V N013 N014 ADG5249F
R2 0 N008 10Meg
V3 N007 0 SINE(0 2 4K)
V4 N010 0 SINE(0 4 12K)
V6 N006 0 SINE(0 1 2K)
V9 N009 0 SINE(0 3 6K)
V12 N011 0 PULSE(3.3 0 0 1u 1u 5m 10m)
.tran 20m
.lib ADG.lib
.backanno
.end
