* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5401F.asc
* Generated by LTspice 24.1.9 for Windows.
V3 VDD 0 15
V4 VSS 0 -15
V5 INP 0 1
VS Sw_Out 0 PULSE(2 14 0 100m 100m 100m 600m 1)
V6 IN 0 5
C1 FF 0 5p
X§U1 Sw_Out Sw_Out FF 0 VDD VSS 0 IN INN Amp_Out ADG5401F
X§U2 INP INN VDD VSS Amp_Out ADA4625-1
R1 N001 FF 1k
V1 N001 0 5
* Switch Voltage Supplies
.tran 600m
* Simulation Commands
* --->Transient Analysis
* Amplifier Input Voltage
* Digital Input Voltage
.lib ADA4625-1.lib
.lib ADG5401F.sub
.backanno
.end
