* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5404F.asc
* Generated by LTspice 24.1.9 for Windows.
V1 Vdd 0 15
V2 Vss 0 -15
V3 Ax 0 PULSE(0 3 0 20n 20n 50u 200u)
C2 SF 0 12p
V6 vS2 0 PULSE(0 40 50u 5u 5u 50u)
V7 vS1 0 5
R1 0 D 1k
C1 D 0 2p
V5 EN 0 5
C3 FF 0 12p
V4 vS4 0 SINE(0 10 10K)
V8 vS3 0 -10
X§U1 D vS2 Vss 0 0 Ax vS3 vS4 Vdd EN FF SF Ax vS1 ADG5404F
.tran 500u
* Switch Voltage Supplies
* Digital Input Voltage
* Switch Analog Inputs
* Notes:\nInterrupt Flag recovery time with pull-up resistor not included\nQinj not included\nCrosstalk between adjacent channel not included\nParameters modeled at ±15V supplies\nSwitch shown for a logic 0 input
.lib ADG5404F.sub
.backanno
.end
