* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5412F.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V3 N001 0 10
V4 N004 0 pulse(0 5 0 20n 20n 10u 20u)
R1 N002 0 300
C1 N002 0 35p
C2 N003 0 12p
X§U1 N004 N002 N001 -V 0 +V N003 ADG5412F
.tran 0.1m
.lib ADG5412F.sub
.backanno
.end
