* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5421F.asc
* Generated by LTspice 24.1.9 for Windows.
V1 Vdd 0 15
V2 Vss 0 -15
V3 INx 0 pulse(0 5 0 10u 10u 10m 20m)
R1 FF N001 1k
C1 FF 0 12
V4 N001 0 5
V6 VS2 0 10
V7 VS1 0 10
R2 0 D2 300
R3 0 D1 300
C2 D1 0 35p
C3 D2 0 35p
X§U1 VS1 VS2 FF 0 Vdd Vss INx INx D2 D1 ADG5421F
.tran 120m
* Switch Voltage Supplies
* Digital Input Voltage
* Simulation Commands
* --->Transient Analysis
* Switch Analog Inputs
.lib ADG5421F.sub
.backanno
.end
