* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5436F.asc
* Generated by LTspice 24.1.9 for Windows.
V1 Vdd 0 15
V2 Vss 0 -15
V3 INx 0 PULSE(0 3 0 20n 20n 50u 200u)
C1 SF 0 12p
V6 VS1B 0 PULSE(0 40 50u 5u 5u 50u)
V7 VS1A 0 0
R3 0 D1 1k
C2 D1 0 2p
V5 EN 0 5
R2 0 D2 1k
C5 D2 0 2p
C7 FF 0 12p
V4 VS2B 0 SINE(0 10 10K)
V8 VS2A 0 -10
X§U2 D1 VS1B Vss 0 0 INx VS2A D2 VS2B Vdd EN FF SF INx VS1A ADG5436F
.tran 500u
* Switch Voltage Supplies
* Digital Input Voltage
* Switch Analog Inputs
* Notes:\nInterrupt Flag recovery time with pull-up resistor not included\nQinj not included\nCrosstalk between adjacent channel not included\nParameters modeled at ±15V supplies\nSwitch shown for a logic 0 input
.lib ADG5436F.sub
.backanno
.end
