* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5462F.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V3 S 0 SINE(0 10 40k)
R1 D 0 300
C1 D 0 33p
C2 N001 0 12p
X§U1 -V D S -V 0 +V N001 N002 +V ADG5462F
V4 N002 0 3
C4 0 -V 0.1µ
C3 0 +V 0.1µ
.tran 0.1m
* Note: 0.1 μF decoupling capacitors are required \non the primary and secondary supplies. If they \nare driven from the same supply, then one set of\n 0.1 μF decoupling capacitors is sufficient.
.lib ADG5462F.sub
.backanno
.end
