* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG7421F.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 2.5
V2 N007 0 -2.5
V3 N004 0 PULSE(0 1.5 0 10u 10u 10m 20m)
R1 N005 N006 1k
C1 N005 0 10p
V4 N006 0 2.5
R3 N003 0 301
C2 N003 0 36p
X§U1 N001 N004 N007 0 N005 N002 N003 ADG7421F
V5 N002 0 1.5
.tran 120m
* Note:\nThis part is modeled at 3 V supply operation\nCrosstalk is not included
.lib ADG7421F.sub
.backanno
.end
