* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1206L.asc
* Generated by LTspice 24.1.9 for Windows.
V1 vS1 0 1
V2 vS2 0 2
V3 vS3 0 3
V4 vS4 0 4
V5 vS5 0 5
V6 vS6 0 6
V7 vS7 0 7
V8 vS8 0 8
V9 vS9 0 9
V10 vS10 0 10
V11 vS11 0 11
V18 N001 0 15
V17 N003 0 -15
V19 vEN 0 PULSE(0 1.8 0 10n 10n 10u 20u)
R1 vD 0 301
C1 N001 0 0.1µ
C2 N003 0 0.1µ
C3 vD 0 36p
V14 vS14 0 14
V15 vS15 0 12
V16 vS16 0 8
V13 vS13 0 13
V12 vS12 0 12
V20 vA0 0 1.8
V21 vA1 0 1.8
V22 vA2 0 1.8
V23 vA3 0 1.8
V24 N002 0 1.8
X§U1 N001 vA0 vA1 vA2 vA3 N003 vEN vS1 vS2 vS3 vS4 vS5 vS6 vS7 vS8 vS9 vS10 vS11 vS12 vS13 vS14 vS15 vS16 vD 0 N002 ADG1206L
.tran 100u
* Notes:\nSwitch shown for a logic 0 input
.lib ADG1206L.sub
.backanno
.end
