* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1207L.asc
* Generated by LTspice 24.1.9 for Windows.
V1 vS1A 0 1
V2 vS2A 0 2
V3 vS3A 0 3
V4 vS4A 0 4
V5 vS5A 0 5
V6 vS6A 0 6
V7 vS7A 0 7
V8 vS8A 0 8
V9 vS1B 0 9
V10 vS2B 0 10
V11 vS3B 0 11
V18 N001 0 15
V17 N003 0 -15
V19 vEN 0 PULSE(0 1.8 0 10n 10n 10u 20u)
R1 vDA 0 301
C1 N001 0 0.1µ
C2 N003 0 0.1µ
C3 vDA 0 36p
V14 vS6B 0 14
V15 vS7B 0 12
V16 vS8B 0 8
V13 vS5B 0 13
V12 vS4B 0 12
V20 vA0 0 0
V21 vA1 0 0
V22 vA2 0 0
R2 vDB 0 301
C4 vDB 0 36p
V23 N002 0 1.8
X§U1 N001 vA0 vA1 vA2 N003 vEN vS1A vS2A vS3A vS4A vS5A vS6A vS7A vS8A vDA vS1B vS2B vS3B vS4B vS5B vS6B vS7B vS8B vDB 0 N002 ADG1207L
.tran 100u
* Note:\nSwitch shown for a logic 0 input
.lib ADG1207L.sub
.backanno
.end
