* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1412L.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V3 S 0 10
V4 IN 0 pulse(0 1.8 0 1u 1u 5m 10m)
R1 D 0 301
X§U1 IN D S -V 0 +V VL ADG1412L
V5 VL 0 1.8
C1 D 0 36p
.tran 30m
* Note:\nSwitch shown for a logic 0 input
.lib ADG1412L.sub
.backanno
.end
