* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1634L.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
V4 IN 0 PULSE(0 1.8 0 10n 10n 10u 20u)
V3 EN 0 1.8
V5 SA 0 3
V6 SB 0 -3
R1 D 0 301
C1 D 0 36p
V7 VL 0 1.8
X§U1 IN SA D SB EN VL -V 0 +V ADG1634L
.tran 120u
.lib ADG1634L.sub
.backanno
.end
