* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADGM1121.asc
* Generated by LTspice 24.1.9 for Windows.
V1 sRF1A 0 1.5
V2 vIN1 0 PULSE(0 3.3 0 10u 10u 10m 20m)
V3 +V 0 3.3
R1 sRFCA 0 50
X§U1 vIN1 sRFCA sRF1A 0 +V ADGM1121
.tran 50m
* Note:\nOnly one channel is modelled\nSPI interface not included\nSwitch shown for a logic 0 input
.lib ADGM1121.sub
.backanno
.end
