* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADGM1144.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 2
V2 N003 0 PULSE(3.3 0 0 10u 10u 10m 20m)
V3 +V 0 3.3
R1 N002 0 301
X§U1 N003 N002 N001 0 +V ADGM1144
.tran 100m
.lib ADGM1144.sub
.backanno
.end
