* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADGM1304.asc
* Generated by LTspice 24.1.9 for Windows.
V1 RF1 0 2
V2 IN 0 PULSE(3.3 0 0 10u 10u 10m 20m)
V3 +V 0 3.3
R1 RFC 0 301
X§U1 IN RFC RF1 0 +V ADGM1304 time_drift=10
.tran 100m
* Set Ron Drift time
.lib ADGM1304.sub
.backanno
.end
