* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADGS1208.asc
* Generated by LTspice 24.1.9 for Windows.
V12 N001 0 15
V14 EN 0 PULSE(0 5 0 10n 10n 10u 20u)
R1 D 0 301
C1 N001 0 0.1µ
C3 D 0 36p
V1 S1 0 1
V2 S2 0 2
V3 S3 0 3
V4 S4 0 4
V5 S5 0 5
V6 S6 0 6
V7 S7 0 7
V8 S8 0 8
V11 A2 0 0
V9 A0 0 3
V10 A1 0 4
V13 N002 0 -15
C2 N002 0 0.1µ
X§U1 N001 A0 A1 A2 EN N002 D S1 S2 S3 S4 S5 S6 S7 S8 0 ADGS1208
.tran 100u
* Notes:\nCharge injection not included\nSwitch parameter modeled at 15V dual supplies\nBandwidth modeled at 344 MHz only\nCrosstalk = -97dB
.lib ADGS1208.sub
.backanno
.end
