* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADGS1408.asc
* Generated by LTspice 24.1.9 for Windows.
V18 N001 0 15
V19 EN 0 PULSE(0 5 0 10n 10n 10u 20u)
R1 D 0 301
C1 N001 0 0.1µ
C3 D 0 36p
V1 S1 0 1
V2 S2 0 2
V3 S3 0 3
V4 S4 0 4
V7 S5 0 5
V8 S6 0 6
V9 S7 0 7
V10 S8 0 8
V15 A2 0 0
V21 A0 0 3
V22 A1 0 4
X§U1 N001 A0 A1 A2 EN N002 D S1 S2 S3 S4 S5 S6 S7 S8 0 ADGS1408
V5 N002 0 -15
C2 N002 0 0.1µ
.tran 100u
* Notes:\nCharge injection not included\nSwitch parameter modeled at 15V dual supplies\nSPI Functionality is not modeled
.lib ADGS1408.sub
.backanno
.end
