* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADGS1412.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V3 S 0 sine(0 5 1K)
V4 IN 0 pulse(0 3.3 0 1u 1u 5m 10m)
R1 D 0 1K
X§U1 IN S D -V +V 0 ADG1412
.tran 30m
.lib ADG1412.sub
.backanno
.end
