* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADGS1612.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
V3 N001 0 4.5
V4 N003 0 pulse(0 3.3 0 20n 20n 10u 20u)
R1 N002 0 300
C1 N002 0 35p
X§U1 N003 N002 N001 -V 0 +V ADGS1612
.tran 0.0001
.lib ADGS1612.sub
.backanno
.end
