* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADGS1414D.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V3 N001 0 10
V4 N003 0 pulse(0 5 0 20n 20n 10u 20u)
R1 N002 0 300
X§U1 N003 N002 N001 -V 0 +V ADGS1414D
C1 N002 0 35p
.tran 0.0001
.lib ADGS1414D.sub
.backanno
.end
