* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADGS2414D.asc
* Generated by LTspice 24.1.9 for Windows.
V1 vS 0 SINE(0 10 20)
R1 vD 0 301
V2 vIN 0 PULSE(0 2.5 20n 20n 20n 150m 300m)
C1 vD 0 36p
V3 v+ 0 15
V4 v- 0 -15
X§U1 vIN vD vS v- 0 v+ ADGS2414D
.tran 1
* Note:\nSwitch shown for a logic 0 input\nQinj not included\nSPI functionality is not modelled\nOny one channel is modelled
.lib ADGS2414D.sub
.backanno
.end
