* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADGS6414D.asc
* Generated by LTspice 24.1.9 for Windows.
V1 vS 0 SINE(0 15 25)
R1 vD 0 301
V2 vIN 0 PULSE(0 3 0 1n 1n 100m 200m)
C1 vD 0 36p
V3 v+ 0 20
X§U1 v+ vIN v- vS vD 0 ADGS6414D
V4 v- 0 -20
.tran 0.5
* Notes:\nSPI functionality is not included\nCharge Injection and Pin Capacitance are not modeled\nOny one channel is modeled\nSwitch shown for a logic 0 input\nParameter performance modeled at 20V dual supply
.lib ADGS6414D.sub
.backanno
.end
