* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADHV4702-1.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 110
V2 -V 0 -110
Vin N002 0 PWL(0 0 100n 5 20u 5 +200n -5 40u -5 +100n 0)
R1 OUT 0 10K
R2 OUT N001 100K
R3 N001 0 5K
V3 _SD 0 5
X§U2 N002 N001 OUT +V -V 0 _SD ADHV4702-1
.tran 60u
.lib ADHV4702-1.lib
.backanno
.end
