* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADHV4710.asc
* Generated by LTspice 24.1.9 for Windows.
V§HVEE N008 0 -50
C1 OUT 0 1n
Ccomp_L OUT N007 {Ccomp}
Ccomp_H OUT N006 {Ccomp}
Rslew N004 N003 {Rslew}
V§HVCC N005 0 50
VCC_5V N002 0 5
R2 N001 0 1k
R3 OUT N001 56k
VIN IN 0 PULSE(0.702 -0.702 0 5n 5n 30u 60u)
X§U1 NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 0 N008 NC_07 NC_08 NC_09 NC_10 N007 OUT N006 N005 N001 N004 N003 IN NC_11 N002 N002 ADHV4710 Ccomp={Ccomp} Rslew={Rslew} SetIQ={SetIQ}
.param Rslew=1m Ccomp=0p SetIQ=12m
* For LTspice User Guide - ADHV4710 Model go to:\nhttps://wiki.analog.com/resources/quick-start
* ADHV4710 Example Circuit
.tran 0 180u 0
* Ccomp_H must=Ccomp_L.\nCcomp_H, Ccomp_L value entered as parameter.\nRslew value entered as parameter.\nSetIQ value entered as parameter.
.lib ADHV4710.sub
.backanno
.end
