* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADL5303.asc
* Generated by LTspice 24.1.9 for Windows.
V1 VPS 0 5
C§V2 VSUM 0 100n
Ipd VPDB INPT {Ipd}
C1 INPT N002 1n
R1 N002 0 750
R2 0 N001 10k
R3 N001 VOUT 15k
X§U1 VSUM INPT VPDB VREF 0 VLOG VLOG VOUT VPS N001 0 0 ADL5303
.op
.step dec param Ipd 100p 10m 10
.lib ADL5303.lib
.backanno
.end
