* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADL5304.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 5
C1 0 N001 0.1µ
C2 N007 0 0.1µ
I1 N002 N005 {Ipd}
Rmntr 1P5V N002 50
R1 VLOG 0 10k
X§U1 1P5V 1P5V N005 N006 N006 1P5V 1P5V N007 N007 0 0 0 NC_01 NC_02 N004 VLOG VLOG N004 1P5V 1P5V N001 N002 N003 N003 ADL5304
.step dec param Ipd 1p 10m 10
.op
.lib ADL5304.lib
.backanno
.end
