* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADL5567.asc
* Generated by LTspice 24.1.9 for Windows.
V5 N001 0 3.3
V6 N005 0 {PM}
V2 N003 0 0 AC 1
V1 VCOM 0 1.65
R1 VON 0 100
R2 0 VOP 100
E1 N002 VCOM N003 0 0.5
E2 VCOM N004 N003 0 0.5
X§U1 N002 N004 N001 0 VOP VON VCOM N001 N005 ADL5567
.ac dec 20 1Meg 10G
.step param PM list 0 3.3
.lib ADL5567.sub
.backanno
.end
