* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADL5569.asc
* Generated by LTspice 24.1.9 for Windows.
V5 N001 0 5
V2 N003 0 0 AC 1
V1 VCOM 0 2.5
R1 VON 0 50
R2 0 VOP 50
E1 N002 VCOM N003 0 0.5
E2 VCOM N004 N003 0 0.5
X§U1 N002 N004 N001 0 VOP VON VCOM N001 ADL5569
.ac dec 20 1Meg 10G
.lib ADL5569.sub
.backanno
.end
